US07244730B2
(Step 4) N1-[5-Acetyl-3-(tert-butyl)-2-hydroxyphenyl]acetamide
Chlorotrimethylsilane (36.5 ml, 288 mmol) was added dropwise to a solution of the N1-[5-acetyl-3-(tert-butyl)-2-(methoxymethoxy)phenyl]acetamide (56.2 g, 192 mmol) and sodium iodide (43.1 g, 288 mmol) in tetrahydrofuran (300 ml) under a nitrogen atmosphere while cooling on ice, and then the mixture was stirred at the same temperature for 10 minutes and at room temperature for 1 hour. The reaction mixture was poured into a saturated aqueous sodium hydrogencarbonate (400 ml)-ice (300 ml) mixed solvent while stirring. Following extraction twice with ethyl acetate, the organic layer was washed with saturated aqueous sodium hydrogencarbonate and brine in that order. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate-n-hexane to yield the title compound (first crystallization=30.5 g, second crystallization=3.55 g, 71.3% yield) as white needle-like crystals.

reactant | Chlorotrimethylsilane | 288 mmol, 36.5 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | N1-[5-acetyl-3-(tert-butyl)-2-(methoxymethoxy)phenyl]acetamide | 192 mmol, 56.2 g | C(C)(=O)C=1C=C(C(=C(C1)NC(C)=O)OCOC)C(C)(C)C | C16H23NO4
reactant | sodium iodide | 288 mmol, 43.1 g | [I-].[Na+]
reactant | sodium hydrogencarbonate | 400 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N1-[5-Acetyl-3-(tert-butyl)-2-hydroxyphenyl]acetamide | 30.5 g, 71.3% yield | C(C)(=O)C=1C=C(C(=C(C1)NC(C)=O)O)C(C)(C)C | C14H19NO3
